US07067529B2
Sodium hydride (0.21 g, 5.1 mmol) was added to a stirred mixture of 1-Bromo-6,7-dimethoxy-isoquinoline-4-carbonitrile (1.0 g, 3.4 mmol), 3-Ethoxy-benzaldehyde (0.72 mL, 5.1 mmol), 1,3-dimethylimidazolium iodide (0.32 g, 1.36 mmol) in DMF (40 mL). The reaction mixture became dark color. After 30 min, water was added to the above mixture, and extracted with chloroform. The extract was washed with water, dried over sodium sulfate, filtered and concentrated in vacuo to afford a solid. Flash chromatography (Merck Silica gel 60, 70–230 mesh, methylenechloride) afforded 1-(3-Ethoxy-benzoyl)-6,7-dimethoxy-isoquinoline-4-carbonitrile (1.22 g, 98%) as a white solid. LC-MS m/e calcd for C21H18N2O4 (MH+) 363, found 363.

reactant | Sodium hydride | 5.1 mmol, 0.21 g | [H-].[Na+]
reactant | 1-Bromo-6,7-dimethoxy-isoquinoline-4-carbonitrile | 3.4 mmol, 1.0 g | BrC1=NC=C(C2=CC(=C(C=C12)OC)OC)C#N | C12H9BrN2O2
reactant | 3-Ethoxy-benzaldehyde | 5.1 mmol, 0.72 mL | C(C)OC=1C=C(C=O)C=CC1 | C9H10O2
reactant | 1,3-dimethylimidazolium iodide | 1.36 mmol, 0.32 g | [I-].C[N+]1=CN(C=C1)C
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-(3-Ethoxy-benzoyl)-6,7-dimethoxy-isoquinoline-4-carbonitrile | 1.22 g, 98% | C(C)OC=1C=C(C(=O)C2=NC=C(C3=CC(=C(C=C23)OC)OC)C#N)C=CC1 | C21H18N2O4
